US08466167B2
To a scintillation vial was added -iodo-1H-indole (1.1 eq.), triethyl(ethynyl)silane (1 eq.), triethylamine (5 eq.), and anhydrous DMF (0.2 M). Vacuumed and nitrogen flushed for three times. CuI (0.1 eq.) and bis(triphenylphosphine)dichloro-palladium(II) (0.1 eq) were added. The vial was sealed and heated at 60° C. overnight. Upon completion of the reaction as monitored by TLC, the content of the vial was loaded onto a silica gel column pretreated with hexanes. Column was washed with hexanes and diethylether until all eluents containing product were collected. Carefully distill off hexanes and ether using rotary evaporator with minimum heating afforded product 5-((triethylsilyl)ethynyl)-1H-indole as colorless oil, which was carried directly on to the next step.

reactant | iodo-1H-indole | 1.1 eq. | IN1C=CC2=CC=CC=C12 | C8H6IN
reactant | triethyl(ethynyl)silane | 1 eq. | C(C)[Si](C#C)(CC)CC | C8H16Si
reactant | triethylamine | 5 eq. | C(C)N(CC)CC | C6H15N
catalyst | CuI | 0.1 eq. | [Cu]I
catalyst | bis(triphenylphosphine)dichloro-palladium(II) | 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 0.2 M | CN(C)C=O | C3H7NO
product | 5-((triethylsilyl)ethynyl)-1H-indole | C(C)[Si](CC)(CC)C#CC=1C=C2C=CNC2=CC1 | C16H21NSi
